US08404696B2
[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-(4-{[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]ethoxycarbonylamino}butyl)carbamic Acid ethyl ester (Compound 16)
3-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-1H-quinazoline-2,4-dione(2 g, 4.1 mmol) was dissolved in 40 mL pyridine and ethyl chloroformate (0.46 mL, 4.9 mmol) was added thereto. After 2 hours, pyridine was removed under reduced pressure and dichloromethane and water was added to the remaining residue. After each layer was separated, dichloromethane was removed and silica gel column-chromatography of the remaining residue was performed to give the title compound of yellow solid (0.61 g, 24%).

reactant | 3-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-1H-quinazoline-2,4-dione | 4.1 mmol, 2 g | O=C1NC2=CC=CC=C2C(N1CCCNCCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C26H32N6O4
reactant | ethyl chloroformate | 4.9 mmol, 0.46 mL | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | [3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-(4-{[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]ethoxycarbonylamino}butyl)carbamic Acid ethyl ester | C(C)OC(N(CCCCN(C(=O)OCC)CCCN1C(NC2=CC=CC=C2C1=O)=O)CCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C32H40N6O8
